US05840732
Synthesis of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-thiazolidine-2,4-dione
To a solution of 8.35 g (35.4 mmol) of 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine and 4.15 g (35.4 mmol) of thiazolidine-2,4-dione in 200 ml of N,N-dimethylformamide, 5.30 ml (35.4 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, followed by heating at 80° C. for 16 hours. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate). The resulting crude crystal was purified by recrystallization (solvent: chloroform/diethyl ether) to yield 10.01 g (88.0%, light orange crystal) of the desired product.

reactant | 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine | 35.4 mmol, 8.35 g | ClCCCCSC1=CC=CC=2N1C=CN2 | C11H13ClN2S
reactant | thiazolidine-2,4-dione | 35.4 mmol, 4.15 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 35.4 mmol, 5.30 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-thiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2SCCCCN2C(SCC2=O)=O | C14H15N3O2S2
